US06916817B1
n-Butyl lithium (8.6 ml of a 1.6 M solution in THF) was added dropwise to a suspension of 4-(4-fluorophenyl)-1-methanesulphonylpiperazine (3.52 g) in THF (40 ml) at −78° C. and the mixture was stirred for 30 minutes. Diethylchlorophosphate (1.97 ml) was added dropwise and the mixture was stirred at −78° C. for a further 30 minutes. n-Butyl lithium (8.6 ml of a 1.6 M solution in THF) was added dropwise and stirred for 30 minutes. A solution of 1-(t-butoxycarbonyl)-piperidine-4-aldehyde (2.91 g) in THF (5 ml) was added dropwise and the mixture was allowed to warm to ambient temperature and was stired for 10 hours. Saturated aqueous ammonium chloride solution (5 ml) was added, the reaction mixture was diluted with ethyl acetate (25 ml) and washed with water. Removal of the solvent gave 4-(4-fluorophenyl)-1-[2-(1-t-butoxycarbonylpiperidin-4-yl)-ethenylsulphonyl]-piperazine as a gum which solidified on standing, M+H=455 (454).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 4-(4-fluorophenyl)-1-methanesulphonylpiperazine | 3.52 g | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15FN2O2S
reactant | Diethylchlorophosphate | 1.97 ml | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | 1-(t-butoxycarbonyl)-piperidine-4-aldehyde | 2.91 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-fluorophenyl)-1-[2-(1-t-butoxycarbonylpiperidin-4-yl)-ethenylsulphonyl]-piperazine | FC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=CC1CCN(CC1)C(=O)OC(C)(C)C | C22H32FN3O4S
